US08198267B2
1-(2-{[tert-Butyl(diphenyl)silyl]oxy}ethyl)tetrahydropyrimidin-2(1H)-one
34.3 g (237 mmol) of 1-(2-hydroxyethyl)tetrahydropyrimidin-2(1H)-one (patent; Chem. Werke Huels; DE 1121617; 1962; Chem. Abstr.; EN; 56; 11601 g; 1962) are dissolved in 612 ml of DMF and admixed with 36.1 g (356 mmol) of triethylamine, 1.45 g (11.9 mmol) of DMAP and 85.0 g (309 mmol) of tert-butyl(chloro)diphenylsilane, and stirred at RT for 18 h. Then the mixture is added to 2000 ml of water and extracted three times with dichloromethane. The combined organic phases are washed twice with water and then dried over sodium sulfate. After filtration, the solvents are removed under reduced pressure. The residue is recrystallized from acetonitrile. This affords 71.9 g (78% of theory) of the desired compound.

reactant | 1-(2-hydroxyethyl)tetrahydropyrimidin-2(1H)-one | 237 mmol, 34.3 g | OCCN1C(NCCC1)=O | C6H12N2O2
reactant | triethylamine | 356 mmol, 36.1 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl(chloro)diphenylsilane | 309 mmol, 85.0 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | water | 2000 ml | O | H2O
solvent | DMF | 612 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 11.9 mmol, 1.45 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(2-{[tert-Butyl(diphenyl)silyl]oxy}ethyl)tetrahydropyrimidin-2(1H)-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCN1C(NCCC1)=O | C22H30N2O2Si
